US09107411B2
6-Chloro-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide (0.200 g, 0.35 mmol) is initially charged in tetrahydrofuran (5.5 ml) under argon, 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide (0.305 g, 0.75 mmol) is added and the mixture is stirred at room temperature for 48 h. Then 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide (0.150 g, 0.38 mmol) is added again and the mixture is stirred at room temperature for a further 12 h. The reaction mixture is then diluted with ethyl acetate and washed with a sodium hydrogencarbonate solution. The organic phase is dried with magnesium sulphate, filtered and concentrated under reduced pressure. The residue is purified by means of preparative HPLC (Kromasil100, C18 250×20; eluent: acetonitrile in water, gradient: 10-100%) to obtain 0.025 g (11% of theory) of N5-(1-carbamothioylcyclopropyl)-6-chloro-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide.

reactant | 6-Chloro-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.35 mmol, 0.200 g | ClC1=C(C=C2C=C(N(C2=C1)CC)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C25H19ClF6N4O2
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide | 0.75 mmol, 0.305 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide | 0.38 mmol, 0.150 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N5-(1-carbamothioylcyclopropyl)-6-chloro-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.025 g, 11% | C(N)(=S)C1(CC1)NC(=O)C=1C=C2C=C(N(C2=CC1Cl)CC)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F | C25H21ClF6N4O2S
